US07884210B2
3-{2-[3-Cyclopentylmethyl-3-(3-methylcarbamoyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid
The title compound was prepared via {2-[3-cyclopentylmethyl-3-(3-methylcarbamoyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid ethyl ester in a similar manner as described for the synthesis of {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using 3-(cyclopentylmethyl-amino)-N-methyl-benzamide and (2-amino-thiazol-5-ylsulfanyl) propionic acid ethyl ester

reactant | {2-[3-cyclopentylmethyl-3-(3-methylcarbamoyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid ethyl ester | C(C)OC(C(C)SC1=CN=C(S1)NC(=O)N(C1=CC(=CC=C1)C(NC)=O)CC1CCCC1)=O | C23H30N4O4S2
reactant | {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC=C(C=C1)S(=O)(=O)C | C19H23N3O5S2
reactant | 3-(cyclopentylmethyl-amino)-N-methyl-benzamide | C1(CCCC1)CNC=1C=C(C(=O)NC)C=CC1 | C14H20N2O
reactant | (2-amino-thiazol-5-ylsulfanyl) propionic acid ethyl ester | C(C)OC(C(C)SC1=CN=C(S1)N)=O | C8H12N2O2S2
product | 3-{2-[3-Cyclopentylmethyl-3-(3-methylcarbamoyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid | C1(CCCC1)CN(C(NC=1SC(=CN1)SCCC(=O)O)=O)C1=CC(=CC=C1)C(NC)=O | C21H26N4O4S2
